US07491743B2
To a suspension of DMSO (5 mL) and KOH (229 mg, 4.1 mmol) was added 2-(7-Chloro-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester (500 mg, 1.4 mmol), followed by MeI (0.127 mL, 2 mmol) at 0° C. The reaction mixture was stirred for 4 hr. After the usual workup the product was purified by column chromatography on silica gel using 30% ethyl acetate—hexane to give 2-(7-Chloro-1-methyl-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester (402 mg, 77%): mp 83-87° C., 1H NMR (500 MHz, CDCl3): 1.28 (t, J=7.5 Hz, 6H), 3.81 (s, 2H), 4.08 (s, 3H), 4.17-4.31 (m, 4H), 6.71 (s, 1H), 6.93 (dd, J=7.5 and 7.5 Hz, 1H), 7.10 (d, J=7.5 Hz, 1H), 7.35 (d, J=7.5 Hz, 1H), 8.18 (d, J=1.0 Hz, 1H).

reactant | KOH | 4.1 mmol, 229 mg | [OH-].[K+]
reactant | 2-(7-Chloro-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester | 1.4 mmol, 500 mg | C(C)OC(C(C(=O)OCC)(NC=O)CC1=CNC2=C(C=CC=C12)Cl)=O | C17H19ClN2O5
reactant | MeI | 2 mmol, 0.127 mL | CI | CH3I
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(7-Chloro-1-methyl-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester | 402 mg, 77% | C(C)OC(C(C(=O)OCC)(NC=O)CC1=CN(C2=C(C=CC=C12)Cl)C)=O | C18H21ClN2O5
